US04777252
(C) 6,7-Dihydroxy-2-naphthalenecarboxylic acid, hydrazide
At -78° C., 3.5 g (14.2 mmol) of boron tribromide (0.5M in dichloromethane) was added dropwise to a solution of 1.59 g (4.7 mmol) of 6,7-dimethoxy-2-naphthalenecarboxylic acid, 2-(2,2-dimethyl-1-oxopropyl)hydrazide in 40 ml of dry dichloromethane. The solution was allowed to warm to room temperature and was stirred overnight. 30 ml of water and 115 ml of ether were added and the resulting precipitate filtered, washed and dried in vacuo to give 0.42 g of the title compound as its hydrobromide salt. The salt was dissolved in water and treated with one equivalent of sodium bicarbonate solution to give, after precipitation and collection by filtration, 0.22 g of the desired title compound.

reactant | boron tribromide | 14.2 mmol, 0.5M, 3.5 g | B(Br)(Br)Br | BBr3
reactant | 6,7-dimethoxy-2-naphthalenecarboxylic acid, 2-(2,2-dimethyl-1-oxopropyl)hydrazide | 4.7 mmol, 1.59 g | CC(C(=O)NNC(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)(C)C | C18H22N2O4
reactant | water | 30 ml | O | H2O
reactant | ether | 115 ml | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6,7-Dihydroxy-2-naphthalenecarboxylic acid, hydrazide | 0.42 g | OC=1C=C2C=CC(=CC2=CC1O)C(=O)NN | C11H10N2O3
